Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, n/v/d
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx of anxiety, appendectomy about 3 weeks ago
presenting with abdominal pain, diarrhea, anxiety, and tremors.
Has been having black stools for 4 days and abdominal pain.

Patient reports being hospitalized for a few days at the end of
___ after after having an appendectomy for acute
appendicitis. He returned home and reported improving abdominal
pain following this procedure until about this ___ when he
noted acute onset sharp lower abdominal pain, n/v, and "black"
diarrhea with as many as 20 bowel movements daily. He reports
being evaluated at ___ where he had "stool tests and a CT scan"
and was diagnosed with UC. He didn't think he ever saw a
gastroenterologist and denied having a colonoscopy. He was then
discharged on "a couple antibiotics" which he thought were
probably ___ and flagyl." He continued to have
abdominal discomfort and frequent black, watery diarrhea up 
until
the day of admission. He also reports anorexia and n/v upon
trying to take in food/liquid. Patient reports no episodes quite
like this in the past but does say at one point over the past 
few
years he had a diarrheal illness and was tested for c. diff
(which was negative). On the day of admission, the patient was 
at
___ visiting his brother who was admitted to the ICU after
experiencing cardiac arrest. He said he became acutely upset
while seeing his brother and decided to report to the ED w/ his
abdominal complaints and c/o acute emotional distress and SI w/
plan. 

In the ED:

Initial vital signs were notable for: 98.3 113 138/77 20 100% RA

Exam notable for:
HR 108
Anxious, tearful, uncomfortable
Abdomen soft, nondistended, moderately tender to palpation
diffusely with some mild involuntary guarding.

Labs were notable for:
ALT 44, AST 51, Bicarb 21, lactate 0.8
Urine opiates +, urine cocaine +
U/A non-inflammatory with ketonuria 

Studies performed include:
CT Abd/pelvis with contrast: 
1. Very trace pelvic free fluid is nonspecific and of unclear
etiology, although not a "normal" finding in a male patient.
2. Otherwise, no acute CT findings seen in the abdomen or 
pelvis.
No bowel obstruction or bowel wall thickening. Patent celiac,
mesenteric, renal, and inferior mesenteric arteries

EKG: NSR @ 99, Normal axis, normal intervals, ST/T waves non
ischemic 

Patient was given:
___ 16:47IVLORazepam 1 mg
___ 17:35IVHYDROmorphone (Dilaudid) 1 mg
___ 17:37IVFLR
___ 18:52IVFLR 1000 mL
___ 18:52IVOndansetron 4 mg
___ 19:46IVHYDROmorphone (Dilaudid) 1 mg
___ 20:17IVLORazepam 1 mg
___ 21:54IVOndansetron 4 mg

Consults: GI, psych

Upon arrival to the floor, the patient reports persistent lower
abdominal pain that improved somewhat with IV dilaudid given in
the ED. He notes persistent nausea and inability to tolerate PO.
He was intermittently tearful in speaking about his brother who
is currently admitted and in critical condition. He reports
having no active SI/HI but says his anxiety and depression seem
to be overwhelming w/ the current stressors on him.

REVIEW OF SYSTEMS:

Complete ROS obtained and is otherwise negative.
 
Past Medical History:
Appendicitis s/p appendectomy ___
 
Social History:
___
Family History:
Denied family history of GI issues including
inflammatory bowel disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: 97.7169 / ___
GENERAL: Well-appearing young M. At times tearful and upset.
HEENT: NCAT, MMM
CARDIAC: RRR, no m/r/g
LUNGS: CTAB
ABDOMEN: Soft, diffuse abdominal TTP most notably in lower
abdomen, no rebound/guarding
EXTREMITIES: WWP, no c/c/e
NEUROLOGIC: AAOx3, grossly intact

DISCHARGE PHYSICAL EXAM
24 HR Data (last updated ___ @ 1544)
    Temp: 98.3 (Tm 99.4), BP: 111/65 (107-128/65-86), HR: 80 
(63-86), RR: 18 (___), O2 sat: 98% (97-99), O2 delivery: Ra  
GENERAL: Well-appearing but emotionally distressed and tearful
man sitting in bed
HEENT: NCAT, MMM
CARDIAC: RRR, no m/r/g
LUNGS: CTAB
ABDOMEN: no TTP, no rebound/guarding
EXTREMITIES: WWP, no c/c/e
NEUROLOGIC: AOx3, grossly intact
 
Pertinent Results:
ADMISSION LABS

___ 12:54AM BLOOD WBC-5.9 RBC-4.99 Hgb-15.4 Hct-45.3 MCV-91 
MCH-30.9 MCHC-34.0 RDW-12.3 RDWSD-40.6 Plt ___
___ 12:54AM BLOOD Neuts-68.5 Lymphs-17.1* Monos-13.2* 
Eos-0.2* Baso-0.7 Im ___ AbsNeut-4.03 AbsLymp-1.01* 
AbsMono-0.78 AbsEos-0.01* AbsBaso-0.04
___ 12:54AM BLOOD ___ PTT-27.8 ___
___ 12:54AM BLOOD Glucose-65* UreaN-11 Creat-1.0 Na-135 
K-4.3 Cl-93* HCO3-18* AnGap-24*
___ 12:54AM BLOOD Albumin-5.3* Calcium-10.0 Phos-2.8 Mg-1.9
___ 12:54AM BLOOD ALT-47* AST-57* CK(CPK)-236 AlkPhos-74 
TotBili-0.6
___ 12:54AM BLOOD Lipase-19
___ 04:45PM BLOOD CRP-4.9
___ 12:54AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:35AM BLOOD HCV Ab-NEG
___ 01:12AM BLOOD Lactate-2.2* K-3.9
___ 02:10AM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-POS* amphetm-NEG mthdone-NEG
___ 02:10AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-TR* Ketone-80* Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 02:10AM URINE Color-Straw Appear-Clear Sp ___

___ 2:28 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___: 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 
      NO SALMONELLA OR SHIGELLA FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 

___ 2:10 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE PHYSICAL EXAM

___ 04:55AM BLOOD WBC-4.7 RBC-4.57* Hgb-14.2 Hct-42.2 
MCV-92 MCH-31.1 MCHC-33.6 RDW-12.1 RDWSD-40.6 Plt ___
___ 04:55AM BLOOD Glucose-86 UreaN-6 Creat-0.9 Na-140 K-3.7 
Cl-101 HCO3-27 AnGap-12
___ 04:55AM BLOOD Albumin-4.4 Calcium-9.6 Phos-4.2 Mg-2.1
___ 04:55AM BLOOD ALT-46* AST-29 LD(LDH)-132 AlkPhos-60 
TotBili-0.4
 
Brief Hospital Course:
SUMMARY STATEMENT:
==================
Patient was admitted for several days of nausea, vomiting, 
diarrhea, abdominal pain, anxiety, tremors and black stools. He 
had recently been diagnosed with colitis in outside hospital and 
given Levaquin. CT showed no evidence of colitis. There were no 
other abnormalities with the exception of some free fluid noted 
in the pelvis. Notably, on the day of admission, the patient had 
been visiting his brother who was in the ICU for an episode of 
cardiac arrest. Immediately upon admission, the patient 
expressed suicidal ideation including a plan. He had endorsed 
the symptoms for several weeks. Psychiatry evaluated him, and 
determined appropriate for ___. He was placed on 
one-to-one observation with a sitter. He was continued on his 
home sertraline as well as lorazepam as needed. Notably, his 
brother died while he was admitted to the hospital, causing 
acute distress. He was additionally initiated on clonidine and 
gabapentin per psychiatry recommendations. He had one episode of 
nausea and vomiting which resolved with IV ondansetron. He was 
initiated on an H2 blocker and then transitioned to omeprazole 
which is continued on discharge to treat empirically for PUD. 
Prior to discharge he was reevaluated by psychiatry and deemed 
appropriate for psychiatric day program. The ___ was 
discontinued at that point and he was discharged home with plan 
for follow up in a partial hospitalization program.

ACTIVE ISSUES:
==============
# Nausea/vomiting/diarrhea/black stools
See above. Patient does not have any evidence of active bleeding 
this admission.

#Major depressive disorder with suicidal ideation
See above summary. Plan to discharge patient to home and 
psychiatric day program.

CHRONIC ISSUES:
===============
#Substance use disorder
Urine tox screen was positive for cocaine and opiates on 
admission. Patient endorsed using cocaine over the ___ 
___ weekend. Patient was monitored for signs and symptoms of 
withdrawal.

TRANSITIONAL ISSUES:
====================
[ ] Free fluid in pelvis seen incidentally on abdominal CT. 
Potentially due to recent appendectomy. Consider re-imaging as 
an outpatient.

[ ] Consider trial of amitriptyline if patient continues to have 
abdominal pain; can also have antidepressant/anxiolytic effect 
which may be beneficial in this patient. However, would be 
cautious given patient's history of suicidal ideation.

[ ] Patient given 2 doses of naloxone on discharge due to urine 
drug screen positive for opiates on admission and discharging 
with benzodiazepine medications along with gabapentin. 

[ ] Started on omeprazole this admission due to suspicion for 
GERD. Stop in 4 weeks (around ___

[ ] Patient will be discharged home with a small quantity of 
lorazepam for acute anxiety. Will defer decision to continue or 
stop this medication to PCP/psychiatric providers.

Emergency Contact: ___ (mother) ___
Code status: full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. HydrOXYzine 50 mg PO Q6H:PRN Anxiety 
2. Sertraline 200 mg PO QAM 

 
Discharge Medications:
1.  CloNIDine 0.1 mg PO TID 
RX *clonidine HCl 0.1 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0 
2.  Gabapentin 100 mg PO TID 
RX *gabapentin 100 mg 1 capsule(s) by mouth three times a day 
Disp #*42 Capsule Refills:*0 
3.  LORazepam 1 mg PO Q6H:PRN Anxiety 
RX *lorazepam 1 mg 1 tablet(s) by mouth twice daily Disp #*12 
Tablet Refills:*0 
4.  Naloxone Nasal Spray 4 mg IH ONCE MR1 Duration: 1 Dose 
RX *naloxone [Narcan] 4 mg/actuation 4 mg intranasal ONCE MR1 
Disp #*2 Spray Refills:*0 
5.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
6.  HydrOXYzine 50 mg PO Q6H:PRN Anxiety  
7.  Sertraline 200 mg PO QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Major depressive disorder with suicidal ideation
Gastroesophageal reflux disease
Anxiety
Adjustment disorder

SECONDARY DIAGNOSES:
Substance use disorder
Post-concussive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did I come to the hospital?
-  You came to the hospital due to abdominal pain accompanied by 
nausea, vomiting, diarrhea, and black stools.

What happened while I was in the hospital?
-  In the hospital, you had imaging that determined you did not 
have any source of gastrointestinal bleeding or colitis 
(inflammation of the colon). Due to nausea, vomiting, and 
heartburn, you were given medications to treat gastroesophageal 
reflux.

-  For anxiety and depression, you were continued on your home 
sertraline, and you were initiated on medications to treat 
anxiety that included lorazepam, clonidine, and gabapentin.

What should I do once I leave the hospital?
-  Please take all of your medications exactly as prescribed, 
and attend all your follow-up appointments, listed below.

- You were given a medication called naloxone on discharge. This 
is a rescue medication used in cases of opioid overdose.

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___